US07947706B2
33.1 mg of yellow lyophilizate 3-{4-[3-(2,5-dimethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 2,5-dimethoxyphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 2,5-dimethoxyphenyl isocyanate | COC1=C(C=C(C=C1)OC)N=C=O | C9H9NO3
product | 3-{4-[3-(2,5-dimethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 33.1 mg | COC1=C(C=C(C=C1)OC)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O | C23H21N5O4
